### PR TITLE
[Merged by Bors] - feat: various Lie algebra definitions / lemmas

### PR DESCRIPTION
**Pull request by ocfnash**
These are all motivated by a result I've proved but I believe they make sense in their own right so I have split them out in the hopes of simplifying review.

---

This file `Mathlib.Algebra.Lie.Submodule` is now quite long and has lots and lots of scope to be tidied / split. I'm happy to do this but advocate for it happening in a future PR.

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Lie/Nilpotent.lean [hunk 1]
```diff
@@ -68,6 +70,11 @@ theorem lcs_succ : N.lcs (k + 1) = ⁅(⊤ : LieIdeal R L), N.lcs k⁆ :=
   Function.iterate_succ_apply' (fun N' => ⁅⊤, N'⁆) k N
 #align lie_submodule.lcs_succ LieSubmodule.lcs_succ
 
+lemma lcs_sup {N₁ N₂ : LieSubmodule R L M} {k : ℕ} :
```
Comment (eric-wieser) [inline Mathlib/Algebra/Lie/Nilpotent.lean:73]: Is `simp` appropriate here?

File: Mathlib/Algebra/Lie/Nilpotent.lean [hunk 2]
```diff
@@ -68,6 +70,11 @@ theorem lcs_succ : N.lcs (k + 1) = ⁅(⊤ : LieIdeal R L), N.lcs k⁆ :=
...
+    (N₁ ⊔ N₂).lcs k = N₁.lcs k ⊔ N₂.lcs k := by
```
Comment (eric-wieser) [inline Mathlib/Algebra/Lie/Nilpotent.lean:74]: Is the `iSup` version true as well?

File: Mathlib/Algebra/Lie/OfAssociative.lean [hunk 3]
```diff
@@ -252,6 +252,16 @@ theorem LieSubalgebra.toEndomorphism_mk (K : LieSubalgebra R L) {x : L} (hx : x
   rfl
 #align lie_subalgebra.to_endomorphism_mk LieSubalgebra.toEndomorphism_mk
 
+lemma LieModule.toEndomorphism_pow_apply_map
+    {M₂ : Type w₁} [AddCommGroup M₂] [Module R M₂] [LieRingModule L M₂] [LieModule R L M₂]
+    (f : M →ₗ⁅R,L⁆ M₂) (k : ℕ) (x : L) (m : M) :
+    (toEndomorphism R L M₂ x ^ k) (f m) = f ((toEndomorphism R L M x ^ k) m) := by
+  suffices : (toEndomorphism R L M₂ x ^ k) ∘ₗ f = f ∘ₗ toEndomorphism R L M x ^ k
```
Comment (eric-wieser) [inline Mathlib/Algebra/Lie/OfAssociative.lean:259]: I think it would be reasonable to make this a  standalone lemma

File: Mathlib/Algebra/Lie/Submodule.lean [hunk 4]
```diff
@@ -538,6 +539,15 @@ theorem wellFounded_of_noetherian [IsNoetherian R M] :
   RelHomClass.wellFounded f (isNoetherian_iff_wellFounded.mp inferInstance)
 #align lie_submodule.well_founded_of_noetherian LieSubmodule.wellFounded_of_noetherian
 
+theorem wellFounded_of_isArtinian [IsArtinian R M] :
+    WellFounded ((· < ·) : LieSubmodule R L M → LieSubmodule R L M → Prop) :=
+  let f :
+    ((· < ·) : LieSubmodule R L M → LieSubmodule R L M → Prop) →r
```
Comment (eric-wieser) [inline Mathlib/Algebra/Lie/Submodule.lean:545]: Would this be more idiomatic as an Order embedding?

File: Mathlib/Algebra/Lie/Submodule.lean [hunk 5]
```diff
@@ -575,6 +585,8 @@ def incl : N →ₗ⁅R,L⁆ M :=
   { Submodule.subtype (N : Submodule R M) with map_lie' := fun {_ _} ↦ rfl }
 #align lie_submodule.incl LieSubmodule.incl
 
+theorem injective_incl : Function.Injective N.incl := Subtype.coe_injective
```
Comment (eric-wieser) [inline Mathlib/Algebra/Lie/Submodule.lean:588]: Do we bother with this lemma for other subtypes? I think we tend to avoid re-stating injectivity for bundled versions.

File: Mathlib/Algebra/Lie/Submodule.lean [hunk 6]
```diff
@@ -724,6 +736,8 @@ def map : LieSubmodule R L M' :=
       · norm_cast at hfm; simp [hfm] }
 #align lie_submodule.map LieSubmodule.map
 
+@[simp] theorem map_coe : (N.map f : Set M') = f '' N := rfl
```
Comment (eric-wieser) [inline Mathlib/Algebra/Lie/Submodule.lean:739]:
```suggestion
@[simp] theorem coe_map : (N.map f : Set M') = f '' N := rfl
```

File: Mathlib/Algebra/Lie/Submodule.lean [hunk 7]
```diff
@@ -757,16 +771,40 @@ theorem gc_map_comap : GaloisConnection (map f) (comap f) := fun _ _ ↦ map_le_
 
 variable {f}
 
+theorem map_inf_le :
+    (N ⊓ N₂).map f ≤ N.map f ⊓ N₂.map f := by
```
Comment (eric-wieser) [inline Mathlib/Algebra/Lie/Submodule.lean:775]: Does the corresponding submodule result prove this in a single line?

File: Mathlib/Algebra/Lie/OfAssociative.lean (hunk 3 above)
Comment (ocfnash) [reply Mathlib/Algebra/Lie/OfAssociative.lean:259]: Agreed; done.

File: Mathlib/Algebra/Lie/Submodule.lean (hunk 4 above)
Comment (ocfnash) [reply Mathlib/Algebra/Lie/Submodule.lean:545]: Oh nice: I had just mindlessly copied the `LieSubmodule.wellFounded_of_noetherian` proof (which I believe was written before had `OrderEmbedding`).

Much better now.

File: Mathlib/Algebra/Lie/Submodule.lean (hunk 5 above)
Comment (ocfnash) [reply Mathlib/Algebra/Lie/Submodule.lean:588]: OK dropped.

File: Mathlib/Algebra/Lie/Submodule.lean (hunk 7 above)
Comment (ocfnash) [reply Mathlib/Algebra/Lie/Submodule.lean:775]: Yes but it seems `Submodule.map_inf_le` is missing so I've added it and realise that the proof in both cases is of course just `Set.image_inter_subset`.

File: Mathlib/Algebra/Lie/Nilpotent.lean (hunk 2 above)
Comment (ocfnash) [reply Mathlib/Algebra/Lie/Nilpotent.lean:75]: Yes but might be a bit more work, I'll see.

File: Mathlib/Algebra/Lie/Submodule.lean [hunk 8]
```diff
@@ -757,16 +767,38 @@ theorem gc_map_comap : GaloisConnection (map f) (comap f) := fun _ _ ↦ map_le_
...
 variable {f}
 
+theorem map_inf_le : (N ⊓ N₂).map f ≤ N.map f ⊓ N₂.map f :=
+  Set.image_inter_subset f N N₂
+
+theorem map_inf (hf : Function.Injective f) :
+    (N ⊓ N₂).map f = N.map f ⊓ N₂.map f := by
+  refine le_antisymm map_inf_le fun m' ⟨⟨m, hm₁, hm₂⟩, ⟨n, hn₁, hn₂⟩⟩ ↦ ⟨m, ⟨hm₁, ?_⟩, hm₂⟩
+  have hmn : m = n := by rw [← hn₂] at hm₂; exact hf hm₂
+  rwa [hmn]
```
Comment (ocfnash) [inline Mathlib/Algebra/Lie/Submodule.lean:777]: TODO Once CI finished, use `Set.image_inter` here.

File: Mathlib/Algebra/Lie/Nilpotent.lean (hunk 2 above)
Comment (ocfnash) [reply Mathlib/Algebra/Lie/Nilpotent.lean:75]: Yeah this is a bit of work because it needs the missing lemma:
```lean

@[simp]
theorem lie_iSup {ι : Type*} {N : ι → LieSubmodule R L M} :
    ⁅I, ⨆ i, N i⁆ = ⨆ i, ⁅I, N i⁆ := by
  refine le_antisymm ?_ (iSup_le_iff.mpr fun i ↦ mono_lie_right _ _ _ (le_iSup N i))
  rw [← coeSubmodule_le_coeSubmodule, lieIdeal_oper_eq_linear_span, Submodule.span_le]
  rintro - ⟨⟨x, hx⟩, ⟨m, hm⟩, rfl⟩
  simp only [SetLike.mem_coe, mem_coeSubmodule]
  -- etc but we now run into missing API for `iSup`s of LieSubmodules
  sorry
```
I propose not adding the `iSup` version of this lemma because:

1. I currently have no use for it,
2. In future work, I want to change the `CompleteLattice` definition on `LieSubmodule` to be definitionally equal to that of `Submodule`: this will tidy things up a lot and make adding missing proofs like the above much easier.

File: Mathlib/Algebra/Lie/Nilpotent.lean [hunk 9]
```diff
@@ -68,6 +70,12 @@ theorem lcs_succ : N.lcs (k + 1) = ⁅(⊤ : LieIdeal R L), N.lcs k⁆ :=
   Function.iterate_succ_apply' (fun N' => ⁅⊤, N'⁆) k N
 #align lie_submodule.lcs_succ LieSubmodule.lcs_succ
 
+@[simp]
+lemma lcs_sup {N₁ N₂ : LieSubmodule R L M} {k : ℕ} :
+    (N₁ ⊔ N₂).lcs k = N₁.lcs k ⊔ N₂.lcs k := by
+  induction' k with k ih; simp
```
Comment (eric-wieser) [inline Mathlib/Algebra/Lie/Nilpotent.lean:76]: Can you add the subgoal bullets here? Otherwise this is arguably a non-terminal simp

File: Mathlib/Algebra/Lie/OfAssociative.lean [hunk 10]
```diff
@@ -254,6 +254,23 @@ theorem LieSubalgebra.toEndomorphism_mk (K : LieSubalgebra R L) {x : L} (hx : x
 
 variable {R L M}
 
+namespace LieModule
+
+variable {M₂ : Type w₁} [AddCommGroup M₂] [Module R M₂] [LieRingModule L M₂] [LieModule R L M₂]
+  (f : M →ₗ⁅R,L⁆ M₂) (k : ℕ) (x : L)
+
+lemma toEndomorphism_pow_compl_lieHom :
```
Comment (eric-wieser) [inline Mathlib/Algebra/Lie/OfAssociative.lean:262]: What is `compl` here?

File: Mathlib/Algebra/Lie/OfAssociative.lean [hunk 11]
```diff
@@ -254,6 +254,23 @@ theorem LieSubalgebra.toEndomorphism_mk (K : LieSubalgebra R L) {x : L} (hx : x
...
+    (toEndomorphism R L M₂ x ^ k) ∘ₗ f = f ∘ₗ toEndomorphism R L M x ^ k := by
+  apply LinearMap.commute_pow_left_of_commute
+  ext
+  simp
+
+lemma toEndomorphism_pow_apply_map (m : M) :
+    (toEndomorphism R L M₂ x ^ k) (f m) = f ((toEndomorphism R L M x ^ k) m) := by
+  simpa using LinearMap.congr_fun (toEndomorphism_pow_compl_lieHom f k x) m
```
Comment (eric-wieser) [inline Mathlib/Algebra/Lie/OfAssociative.lean:270]: Does `exact` not work?

File: Mathlib/Algebra/Lie/Submodule.lean [hunk 12]
```diff
@@ -528,16 +529,23 @@ instance : IsModularLattice (LieSubmodule R L M) where
 
 variable (R L M)
 
+/-- The natural functor that forgets the action of `L` as an order embedding. -/
+@[simps] def toSubmodule_orderEmbedding : LieSubmodule R L M ↪o Submodule R M :=
```
Comment (eric-wieser) [inline Mathlib/Algebra/Lie/Submodule.lean:533]: Nit: could use `where` notation

File: Mathlib/Algebra/Lie/Submodule.lean [hunk 13]
```diff
@@ -783,6 +813,56 @@ theorem comap_incl_eq_bot : N₂.comap N.incl = ⊥ ↔ N ⊓ N₂ = ⊥ := by
...
+    simp only [← Set.image_comp, coe_map, LinearMap.coe_comp, LieModuleHom.coe_comp]
+
+@[simp]
+theorem map_id : N.map LieModuleHom.id = N := by ext; simp
+
+@[simp] theorem map_bot :
+    (⊥ : LieSubmodule R L M).map f = ⊥ := by
+  ext m; simp [eq_comm]
+
+lemma map_rel_iff (hf : Function.Injective f) :
```
Comment (eric-wieser) [inline Mathlib/Algebra/Lie/Submodule.lean:833]: This name looks a bit weird to me. Does it match the Submodule name?

File: Mathlib/Algebra/Lie/Basic.lean [hunk 14]
```diff
@@ -1001,10 +1001,15 @@ instance : EquivLike (M ≃ₗ⁅R,L⁆ N) M N :=
     coe_injective' := fun f g h₁ h₂ =>
       by cases f; cases g; simp at h₁ h₂; simp [*] }
 
+@[simp] lemma coe_coe (e : M ≃ₗ⁅R,L⁆ N) : ⇑(e : M →ₗ⁅R,L⁆ N) = e := rfl
```
Comment (eric-wieser) [inline Mathlib/Algebra/Lie/Basic.lean:1004]: Is `norm_cast` allowed here?

**Review by eric-wieser — APPROVED** [review]
bors d+

Thanks!

File: Mathlib/Algebra/Lie/OfAssociative.lean (hunk 10 above)
Comment (eric-wieser) [reply Mathlib/Algebra/Lie/OfAssociative.lean:262]: (If it's `LinearMap.comp`, I think plain `comp` would be better)

File: Mathlib/Algebra/Lie/Basic.lean (hunk 14 above)
Comment (ocfnash) [reply Mathlib/Algebra/Lie/Basic.lean:1004]: Nope it complains `norm_cast: badly shaped lemma, rhs can't start with coe`. (I might look into this in the future.)

File: Mathlib/Algebra/Lie/Submodule.lean (hunk 13 above)
Comment (ocfnash) [reply Mathlib/Algebra/Lie/Submodule.lean:833]: Thanks, renamed to `map_le_map_iff`.

File: Mathlib/Algebra/Lie/Submodule.lean (hunk 12 above)
Comment (ocfnash) [reply Mathlib/Algebra/Lie/Submodule.lean:533]: But doesn't `where` produce terms containing these horrible `let src := ...` clauses?

File: Mathlib/Algebra/Lie/OfAssociative.lean (hunk 11 above)
Comment (ocfnash) [reply Mathlib/Algebra/Lie/OfAssociative.lean:270]: Yes, indeed I can just provide the term (and now have).

File: Mathlib/Algebra/Lie/OfAssociative.lean (hunk 10 above)
Comment (ocfnash) [reply Mathlib/Algebra/Lie/OfAssociative.lean:262]: Renamed to use `comp` instead of `compl`.

File: Mathlib/Algebra/Lie/Nilpotent.lean (hunk 9 above)
Comment (ocfnash) [reply Mathlib/Algebra/Lie/Nilpotent.lean:76]: OK done.

File: Mathlib/Algebra/Lie/Submodule.lean (hunk 12 above)
Comment (eric-wieser) [reply Mathlib/Algebra/Lie/Submodule.lean:533]: No, it's `with`/ `__ :=` that does that.

Comment (eric-wieser) [reply Mathlib/Algebra/Lie/Submodule.lean:533]: But we have no evidence that those `let`s are problematic for *morphisms*, as far as I know; the problems arise mainly for instances.

**Comment by ocfnash** [comment]
bors merge

File: Mathlib/Algebra/Lie/Nilpotent.lean (hunk 2 above)
Comment (ocfnash) [reply Mathlib/Algebra/Lie/Nilpotent.lean:75]: The missing API for `iSup`s of `LieSubmodule`s is added in #7608
